US05563163
Reaction of 5.8 g (0.024 mol) of 5-chloro-2-benzyl-2H-isothiazol-3-one-1-oxide with 3.76 g (0. 0335 mol) of 2-ethoxyfuran afforded 3.05 g (40%) of 2-benzyl-4-ethoxy-7-hydroxybenzisothiazol-3-one-1-oxide, 5.7 g of which was reacted with 3.6 g (0.0197 mol) of 2-[2-methoxyethoxy]ethyl bromide in the presence of 4.95 g (0.0358 mol) of potassium carbonate in 125 ml of methyl ethyl ketone and 25 ml of DMF to give 7.0 g (93%) of 2-benzyl-4-ethoxy-7-[2-(2-methoxy-ethoxy]-ethoxy]benzisothiazol-3-one-1-oxide, which was oxidized as before with 3-chloroperbenzoic acid in MDC to give 2-benzyl-4-ethoxy-7-[2-(2-methoxyethoxy)ethoxy]-saccharin. Debenzylation of 6.6 g (0.015 mol) of the latter with 3.34 g (0.053 mol) of ammonium formate in the presence of 6.4 g of 10% palladium-on-charcoal catalyst in methanol afforded the ammonium salt of 4-ethoxy-7-[2-(2-methoxyethoxy)ethoxy]saccharin, which was reacted with 2.38 g (0.015 mol) of chloromethyl phenyl sulfide in 100 mL of DMF to give 1.46 g (21%) of 2-phenylthiomethyl-4-ethoxy-7-[2-(2-methoxyethoxy]-ethoxy]saccharin, mp 73°-75 ° C. (from isopropanol). Treatment of 1.4 g (0.0029 mol) of the product with 0.4 g (0.0029 mol) of sulfuryl chloride in MDC afforded 1.16 g (100%) of 2-chloromethyl-4-ethoxy-7-[2-(2-methoxyethoxy)ethoxy]-saccharin.

reactant | 5-chloro-2-benzyl-2H-isothiazol-3-one-1-oxide | 0.024 mol, 5.8 g | ClC1=CC(N(S1=O)CC1=CC=CC=C1)=O | C10H8ClNO2S
reactant | 2-ethoxyfuran | 3.76 g | C(C)OC=1OC=CC1 | C6H8O2
product | 2-benzyl-4-ethoxy-7-hydroxybenzisothiazol-3-one-1-oxide | 3.05 g, 40% | C(C1=CC=CC=C1)N1S(C2=C(C1=O)C(=CC=C2O)OCC)=O | C16H15NO4S
